US09403832B2
5.6.14. Synthesis of 4-[3-(1-Methyl-2-oxo-1,2-dihydro-pyridin-3-yl)-pyrazolo[1,5-a]pyrimidin-5-yl]-piperazine-1-carboxylic acid isopropyl ester
Prepared similarly to the preparation of example 5.6.9 from 4-(3-bromo-pyrazolo[1,5-a]pyrimidin-5-yl)-piperazine-1-carboxylic acid isopropyl ester and (1-methyl-2-oxo-1,2-dihydropyridin-3-yl)boronic acid to provide a yellow powder as a free base, mp. 206-207° C. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.23 (d, J=6.32 Hz, 6 H) 3.53 (s, 7 H) 3.70-3.82 (m, 4 H) 4.83 (spt, J=6.23 Hz, 1H) 6.37 (t, J=6.82 Hz, 1 H) 6.78 (d, J=7.83 Hz, 1 H) 7.55 (dd, J=6.57, 1.26 Hz, 1 H) 8.64 (dd, J=7.20, 1.14 Hz, 1 H) 8.72 (d, J=7.83 Hz, 1 H) 8.96 (s, 1 H). 13C NMR (100 MHz, DMSO-d6) δ ppm 21.97, 37.39, 42.84, 44.11, 68.16, 96.94, 100.56, 105.49, 122.80, 132.49, 135.00, 136.42, 144.40, 144.56, 154.29, 155.46, 160.29. LRMS (ESI) m/z 397.1 [(M+H)]+, calc'd for C20H24N6O3: 396.45.

reactant | 4-(3-bromo-pyrazolo[1,5-a]pyrimidin-5-yl)-piperazine-1-carboxylic acid isopropyl ester | C(C)(C)OC(=O)N1CCN(CC1)C1=NC=2N(C=C1)N=CC2Br | C14H18BrN5O2
reactant | (1-methyl-2-oxo-1,2-dihydropyridin-3-yl)boronic acid | CN1C(C(=CC=C1)B(O)O)=O | C6H8BNO3
product | 4-[3-(1-Methyl-2-oxo-1,2-dihydro-pyridin-3-yl)-pyrazolo[1,5-a]pyrimidin-5-yl]-piperazine-1-carboxylic acid isopropyl ester | C(C)(C)OC(=O)N1CCN(CC1)C1=NC=2N(C=C1)N=CC2C=2C(N(C=CC2)C)=O | C20H24N6O3
